US07442805B2
1-Methyl-5-nitro-3-phenyl-1H-indole-2-carboxylic acid was prepared from ethyl 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylate by KOH hydrolysis as a yellowish solid: 1H NMR (DMSO-d6) δ 4.08 (s, 3H, 7.48-7.55 (m, 5H, 7.86 (d, J=9.2 Hz, 1H), 8.21 (dd, J=9.2, 2.3 Hz, 1H, 8.30 (d, J=2.3 Hz, 1H; MS (ESI) m/z 295 [M-H]−; HRMS calcd for C16H13N2O4: 297.0873; found (ESI+): 297.0867; Anal. calcd for C16H12N2O4.0.15H2O: C, 63.32; H, 4.25; N, 9.23. Found: C, 63.34; H, 3.87; N, 9.12.

reactant | ethyl 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylate | CN1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)OCC | C18H16N2O4
reactant | KOH | [OH-].[K+]
product | 1-Methyl-5-nitro-3-phenyl-1H-indole-2-carboxylic acid | CN1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)O | C16H12N2O4
